US07893090B2
(RS)-1-[2-(5,6-Difluoro-1-propyl-1H-benzoimidazol-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone
(RS)-1-[2-(5,6-Difluoro-1H-benzoimidazol-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone, E35 (150 mg, 0.32 mmol) was added slowly to an ice-cooled slurry of sodium hydride (26 mg, 0.64 mmol, 60% dispersion in mineral oil) in DMF (10 ml). After stirring for a further 0.5 h, 1-iodopropane (60 mg, 0.35 mmol) was added. The mixture was stirred at room temperature for 16 h then partitioned between water and ethyl acetate. The organic phase was washed with water, brine, dried (Na2SO4) and the solvent removed in vacuo. Chromatography (silica gel, 50-100% ethyl acetate-pentane then 0-5% methanol-ethyl acetate) afforded the title compound as a white solid.

reactant | (RS)-1-[2-(5,6-Difluoro-1H-benzoimidazol-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone | FC1=CC2=C(NC(=N2)CC2N(CCCC2)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C)C=C1F | C24H21F3N4OS
reactant | sodium hydride | 0.64 mmol, 26 mg | [H-].[Na+]
reactant | 1-iodopropane | 0.35 mmol, 60 mg | ICCC | C3H7I
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (RS)-1-[2-(5,6-Difluoro-1-propyl-1H-benzoimidazol-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone | FC1=CC2=C(N(C(=N2)CC2N(CCCC2)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C)CCC)C=C1F | C27H27F3N4OS
